US06867198B2
3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with 2-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-acetamide and (6-Fluoro-1H-indol-3-yl)-oxo-acetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | 2-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
reactant | (6-Fluoro-1H-indol-3-yl)-oxo-acetic acid methyl ester | COC(C(=O)C1=CNC2=CC(=CC=C12)F)=O | C11H8FNO3
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC(=CC=C23)F)=O)=O | C23H16FN3O2
